US07906504B2
A solution of (E)-2-[2-(3-chlorophenyl)vinyl]-5-methoxybenzoic acid (15.00 g, 51.95 mmol) in anhydrous THF (520 mL) was sparged with argon for 5 min. p-Benzoquinone (6.18 g, 57.20 mmol) was added followed by bis(acetonitrile)dichloropalladium(II) (674 mg, 2.60 mmol) and the resultant mixture stirred at ambient temperature for 17 h. 1 N NaOH (aq.) (375 mL) was added and the resultant brown solid washed with chloroform (4×200 mL) to provide 3-(3-chlorophenyl)-7-methoxyisochromen-1-one (10.96 g, 38.23 mmol, 74%) as pale yellow solid.

reactant | (E)-2-[2-(3-chlorophenyl)vinyl]-5-methoxybenzoic acid | 51.95 mmol, 15.00 g | ClC=1C=C(C=CC1)/C=C/C1=C(C(=O)O)C=C(C=C1)OC | C16H13ClO3
reactant | p-Benzoquinone | 57.20 mmol, 6.18 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | NaOH | 1 N, 375 mL | [OH-].[Na+]
solvent | THF | 520 mL | C1CCOC1 | C4H8O
catalyst | bis(acetonitrile)dichloropalladium(II) | 2.60 mmol, 674 mg | CC#N.CC#N.Cl[Pd]Cl
product | 3-(3-chlorophenyl)-7-methoxyisochromen-1-one | 38.23 mmol, 10.96 g, 74% | ClC=1C=C(C=CC1)C=1OC(C2=CC(=CC=C2C1)OC)=O | C16H11ClO3
